US06673793B2
To a cold (0° C.), stirred mixture of 3.60 g of dihydroxyacetone dimer and 16 mL of diisopropylethylamine in 40 mL of dichloromethane is added 6.1 mL of chloromethyl methyl ether. The mixture is stirred and allowed to warm slowly to room temperature. After 18 h, the clear solution is partitioned between ether and dilute HCl. The aqueous phase is placed in a continuous extractor and extracted overnight with ether. The combined organic phase is then dried (MgSO4) and concentrated under reduced pressure. Kugelrohr distillation of the residue at ˜0.5 mmHg and 150° C. oven temperature affords 2.79 g of 2,4,8,10-tetraoxaundecan-6-one as a pale yellow oil.

reactant | dihydroxyacetone dimer | 3.60 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | diisopropylethylamine | 16 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 6.1 mL | COCCl | C2H5ClO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2,4,8,10-tetraoxaundecan-6-one | 2.79 g | COCOCC(COCOC)=O | C7H14O5
